US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(Cyclohexylamino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(cyclohexylamino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (400 mg, 0.525 mmol) in DCM (10 mL) stirred at room temp was added TFA (5 mL, 64.9 mmol). The reaction mixture was stirred at 30° C. for 2 h. The mixture was evaporated to dryness, then diluted by 200 mL DCM. The organic phase was washed with saturated NaHCO3 solution, water and saturated brine, dried and concentrated under reduced pressure to afford crude product. This material was further purified by preparative-HPLC to afford the title compound (120 mg, 32%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=6.92 (d, J=15.8 Hz, 1H), 5.62 (d, J=15.8 Hz, 1H), 5.37 (d, J=8.3 Hz, 1H), 4.50 (dd, J=5.3, 11.0 Hz, 1H), 3.94-3.73 (m, 1H), 3.27-3.14 (m, 2H), 2.80-2.51 (m, 3H), 2.37-2.03 (m, 3H), 2.03-0.69 (m, 54H); LC/MS: m/z calculated 705.5. Found 706.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(cyclohexylamino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.525 mmol, 400 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)NC5CCCCC5)C)C)(C)C)C | C48H75NO6
reactant | TFA | 64.9 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(Cyclohexylamino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 120 mg, 32% | C1(CCCCC1)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C44H67NO6
